US07714017B2
Synthesis of 5-Amino-1-(2,2-diethoxy-ethyl)-1H-pyrazole-4-carboxylic acid ethyl ester, K-7.
Synthesis of 1H-Imidazo[1,2-b]pyrazole-7-carboxylic acid ethyl ester, K-8. To a solution of crude K-7 (2 g) in absolute ethanol (10 mL) was added aqueous 20% sulfuric acid solution (12 mL) and the resulting mixture was refluxed for 1 h. The cooled reaction mixture was concentrated to remove the solvent and the mixture was poured to ice and adjusted to pH 8 with sodium bicarbonate. The insoluble material was filtered off and filtrate was extracted with methylene chloride (2×60 mL). The combined organic extracts were dried (MgSO4), filtered and concentrated to give 1.2 g of a dark brown residue. This residue was purified by column chromatography using CH2Cl2 to 2% MeOH/CH2Cl2 to afford 280 mg of product K-8. 1H NMR.

reactant | 1H-Imidazo[1,2-b]pyrazole-7-carboxylic acid ethyl ester | C(C)OC(=O)C1=C2N(N=C1)C=CN2 | C8H9N3O2
reactant | sulfuric acid | 12 mL | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-Amino-1-(2,2-diethoxy-ethyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 1.2 g | C(C)OC(=O)C=1C=NN(C1N)CC(OCC)OCC | C12H21N3O4
